US08404694B2
A resealable tube charged with a mixture of 4-(2-cyclopropylpyrazolo[1,5-a]pyrimidin-7-ylthio)benzenamine (100 mg, 0.354 mmol) and 1-chloro-4-(4-chlorophenyl)phthalazine (97 mg, 0.354 mmol) in tBuOH (2 mL) was heated to 100° C. After 3 hrs, the mixture was cooled to RT, diluted with CH2Cl2, and washed with water and brine. After drying the organic fraction with sodium sulfate, the solvent was removed in vacuo. The residue was purified by silica gel chromatography using 20-90% Hexanes:EtOAc to afford 4-(4-chlorophenyl)-N-(4-(2-cyclopropylpyrazolo[1,5-a]pyrimidin-7-ylthio)phenyl)phthalazin-1-amine. MS: Found M+H+=521.2.

reactant | 4-(2-cyclopropylpyrazolo[1,5-a]pyrimidin-7-ylthio)benzenamine | 0.354 mmol, 100 mg | C1(CC1)C1=NN2C(N=CC=C2SC2=CC=C(C=C2)N)=C1 | C15H14N4S
reactant | 1-chloro-4-(4-chlorophenyl)phthalazine | 0.354 mmol, 97 mg | ClC1=NN=C(C2=CC=CC=C12)C1=CC=C(C=C1)Cl | C14H8Cl2N2
solvent | tBuOH | 2 mL | CC(C)(C)O | C4H10O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(4-chlorophenyl)-N-(4-(2-cyclopropylpyrazolo[1,5-a]pyrimidin-7-ylthio)phenyl)phthalazin-1-amine | ClC1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)SC1=CC=NC=2N1N=C(C2)C2CC2 | C29H21ClN6S
